US05043344
trans-3,4-Dihydro-4-(1,2-dihydro-5-nitro-2-oxo-pyrid-1-yl)-2,2-dimethyl-6-phenylsulfonyl -2H-benzo[b]pyran-3-ol
4.00 g (12.6 mmol) of 3,4-dihydro-2,2-dimethyl-3,4-epoxy-6-(phenylsulfonyl)-2H-benzo[b]pyran and 1.77 g (12.6 mmol) of 2-hydroxy-5-nitropyridine are suspended in a little absolute THF, and 16.7 ml (12.6 mmol) of a 1 M solution of lithium bis-trimethylsilylamide are added dropwise under argon with stirring and ice cooling. The mixture is stirred at room temperature for a further 72 hours, hydrolyzed and extracted three times with ethyl acetate. The combined organic extracts are washed with water and saturated sodium chloride solution and dried over sodium sulfate. The solvent is evaporated in vacuo and the residue is chromatographed on silica gel (ethyl acetate/ cyclohexane 1:1). The compound can be crystallized in ethyl acetate.

reactant | 3,4-dihydro-2,2-dimethyl-3,4-epoxy-6-(phenylsulfonyl)-2H-benzo[b]pyran | 12.6 mmol, 4.00 g | CC1(C2C(C3=C(O1)C=CC(=C3)S(=O)(=O)C3=CC=CC=C3)O2)C | C17H16O4S
reactant | 2-hydroxy-5-nitropyridine | 12.6 mmol, 1.77 g | OC1=NC=C(C=C1)[N+](=O)[O-] | C5H4N2O3
reactant | lithium bis-trimethylsilylamide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | C1CCOC1 | C4H8O
product | trans-3,4-Dihydro-4-(1,2-dihydro-5-nitro-2-oxo-pyrid-1-yl)-2,2-dimethyl-6-phenylsulfonyl -2H-benzo[b]pyran-3-ol | [N+](=O)([O-])C=1C=CC(N(C1)[C@@H]1C2=C(OC([C@H]1O)(C)C)C=CC(=C2)S(=O)(=O)C2=CC=CC=C2)=O | C22H20N2O7S
